US05489593
1-[1,1-Dimethylethoxycarbonyl]-4-(2-(ethylamino)phenyl]piperazine
Sodium cyanoborohydride (1.6 g) is added to a 0° solution of 1-[1,1-dimethylethoxycarbonyl]-4-(2-aminophenyl)piperazine (PREPARATION 13, 6.52 g) and acetaldehyde (1.48 ml) dissolved in methanol (65 ml). After 3 hr the reaction mixture is partially concentrated under reduced pressure. Then it is diluted with chloroform, washed with saturated aqueous sodium bicarbonate, saline, dried over anhydrous sodium sulfate and concentrated under reduced pressure to give the title compound, Rf =0.62 (ethyl acetate/hexane, 1/1), NMR (300 MHz, CDCl3) 7.04, 6.95, 6.66, 4.59, 3.70-3.50, 3.15, 2.82, 1.49 and 1.28 δ.

reactant | Sodium cyanoborohydride | 1.6 g | C(#N)[BH3-].[Na+]
reactant | 1-[1,1-dimethylethoxycarbonyl]-4-(2-aminophenyl)piperazine | 6.52 g | CC(C)(OC(=O)N1CCN(CC1)C1=C(C=CC=C1)N)C | C15H23N3O2
reactant | acetaldehyde | 1.48 ml | C(C)=O | C2H4O
solvent | methanol | 65 ml | CO | CH4O
product | 1-[1,1-Dimethylethoxycarbonyl]-4-(2-(ethylamino)phenyl]piperazine | CC(C)(OC(=O)N1CCN(CC1)C1=C(C=CC=C1)NCC)C | C17H27N3O2
